US04889941
(c) 7-[3-[(3-Nicotinylpropyl)amino]-2-hydroxypropoxy]flavone
A suspension of 7-[3-[N-benzyl,N-(3-nicotinylpropyl)amino]-2-hydroxypropoxy]flavone (4.50 g, 8.64 mmol), Example 17b, palladium black (0.1 g), cyclohexene (30 ml), and acetic acid (30 ml) was refluxed for 6 hours. The solvent was evaporated to give a residue which was dissolved in water and washed with chloroform (twice) to remove impurities. The aqueous solution was basified with 2.5N NaOH and then extracted with methylene chloride several times. The extracts were washed with water, dried (MgSO4), and evaporated to afford a yellow solid of 2.9 g. Recrystallization from isopropyl alcohol gave light yellow crystals (2.0 g; 54% yield), mp 116°-119° C.

reactant | 7-[3-[N-benzyl,N-(3-nicotinylpropyl)amino]-2-hydroxypropoxy]flavone | 8.64 mmol, 4.50 g | C(C1=CC=CC=C1)N(CCCCC1=CN=CC=C1)CC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)O | C34H34N2O4
reactant | cyclohexene | 30 ml | C1=CCCCC1 | C6H10
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | palladium black | 0.1 g | [Pd] | Pd
product | 7-[3-[(3-Nicotinylpropyl)amino]-2-hydroxypropoxy]flavone | 54% yield | C(C1=CN=CC=C1)CCCNCC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)O | C27H28N2O4
